US04681895
Preparation of N-(o-ethoxycarbonylphenyl)-trans-4-guanidinomethylcyclohexanecarboxamide hydrochloride:
Trans-4-guanidinomethylcyclohexanecarboxylic acid hydrochloride (10.0 g, 0.042 mole) (which is prepared by the method as disclosed in Japanese Patent First Publication No. 19694/1977, C.A., 87, 53269x) and ethyl anthranilate (10.4 g, 0.063 mole) are added to pyridine (50 ml), and the mixture is stirred for a while, and thereto is added dicyclohexylcarbodiimide (13 g, 0.063 mole), and the mixture is stirred at room temperature for 72 hours. After the completion of the reaction, water (30 ml) is added to the reaction mixture, and the mixture is stirred for 30 minutes, and the undissolved materials are filtered off. The filtrate is concentrated to dryness. The resulting residue is washed with ethyl acetate (300 ml) and recrystallized from water to give the title compound (6.74 g) as white crystals. m.p. 92°-95° C.

reactant | Trans-4-guanidinomethylcyclohexanecarboxylic acid hydrochloride | 0.042 mole, 10.0 g | Cl.N(C(=N)N)C[C@@H]1CC[C@H](CC1)C(=O)O
reactant | ethyl anthranilate | 0.063 mole, 10.4 g | C(C=1C(N)=CC=CC1)(=O)OCC | C9H11NO2
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
reactant | dicyclohexylcarbodiimide | 0.063 mole, 13 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | water | 30 ml | O | H2O
product | N-(o-ethoxycarbonylphenyl)-trans-4-guanidinomethylcyclohexanecarboxamide hydrochloride | 6.74 g | Cl.C(C)OC(=O)C1=C(C=CC=C1)NC(=O)[C@@H]1CC[C@H](CC1)CNC(=N)N | InChI=1S/C18H26N4O3.ClH/c1-2-25-17(24)14-5-3-4-6-15(14)22-16(23)13-9-7-12(8-10-13)11-21-18(19)20;/h3-6,12-13H,2,7-11H2,1H3,(H,22,23)(H4,19,20,21);1H/t12-,13-;
